// File: DLATCHN.spi
// Created: Sun Apr 12 08:33:24 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/DLATCHN.pex.spice"
subckt DLATCHN (  D Q VDD GATE_N GND )
// 
// GND	GND
// GATE_N	GATE_N
// VDD	VDD
// Q	Q
// D	D
M0_noxref ( N_noxref_3_M0_noxref_d N_GATE_N_M0_noxref_g N_GND_M0_noxref_s \
 noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M1_noxref ( N_noxref_1_M1_noxref_d N_D_M1_noxref_g N_GND_M1_noxref_s \
 noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M2_noxref ( N_GND_M2_noxref_d N_noxref_1_M2_noxref_g N_noxref_15_M2_noxref_s \
 noxref_249 ) NMOS l=0.163119 w=2.35104 m=1
M3_noxref ( N_noxref_2_M3_noxref_d N_noxref_3_M3_noxref_g \
 N_noxref_15_M2_noxref_s noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M4_noxref ( N_noxref_6_M4_noxref_d N_noxref_2_M4_noxref_g N_GND_M4_noxref_s \
 noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M5_noxref ( N_GND_M5_noxref_d N_noxref_3_M5_noxref_g N_noxref_16_M5_noxref_s \
 noxref_249 ) NMOS l=0.163119 w=2.35104 m=1
M6_noxref ( N_noxref_5_M6_noxref_d N_D_M6_noxref_g N_noxref_16_M5_noxref_s \
 noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M7_noxref ( N_noxref_8_M7_noxref_d N_noxref_5_M7_noxref_g N_GND_M7_noxref_s \
 noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M8_noxref ( N_Q_M8_noxref_d N_noxref_6_M8_noxref_g N_GND_M8_noxref_s \
 noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M9_noxref ( N_Q_M9_noxref_d N_noxref_9_M9_noxref_g N_GND_M8_noxref_s \
 noxref_249 ) NMOS l=0.163129 w=2.31397 m=1
M10_noxref ( N_noxref_9_M10_noxref_d N_Q_M10_noxref_g N_GND_M10_noxref_s \
 noxref_249 ) NMOS l=0.163346 w=2.31104 m=1
M11_noxref ( N_noxref_9_M11_noxref_d N_noxref_8_M11_noxref_g \
 N_GND_M10_noxref_s noxref_249 ) NMOS l=0.163129 w=2.31397 m=1
M12_noxref ( N_noxref_3_M12_noxref_d N_GATE_N_M12_noxref_g N_VDD_M12_noxref_s \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M13_noxref ( N_VDD_M13_noxref_d N_GATE_N_M13_noxref_g N_noxref_3_M12_noxref_d \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M14_noxref ( N_noxref_1_M14_noxref_d N_D_M14_noxref_g N_VDD_M14_noxref_s \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M15_noxref ( N_VDD_M15_noxref_d N_D_M15_noxref_g N_noxref_1_M14_noxref_d \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M16_noxref ( N_noxref_2_M16_noxref_d N_noxref_1_M16_noxref_g \
 N_VDD_M16_noxref_s noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M17_noxref ( N_VDD_M17_noxref_d N_noxref_1_M17_noxref_g \
 N_noxref_2_M16_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M18_noxref ( N_noxref_2_M18_noxref_d N_noxref_3_M18_noxref_g \
 N_VDD_M17_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M19_noxref ( N_VDD_M19_noxref_d N_noxref_3_M19_noxref_g \
 N_noxref_2_M18_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M20_noxref ( N_noxref_6_M20_noxref_d N_noxref_2_M20_noxref_g \
 N_VDD_M20_noxref_s noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M21_noxref ( N_VDD_M21_noxref_d N_noxref_2_M21_noxref_g \
 N_noxref_6_M20_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M22_noxref ( N_noxref_5_M22_noxref_d N_noxref_3_M22_noxref_g \
 N_VDD_M22_noxref_s noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M23_noxref ( N_VDD_M23_noxref_d N_noxref_3_M23_noxref_g \
 N_noxref_5_M22_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M24_noxref ( N_noxref_5_M24_noxref_d N_D_M24_noxref_g N_VDD_M23_noxref_d \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M25_noxref ( N_VDD_M25_noxref_d N_D_M25_noxref_g N_noxref_5_M24_noxref_d \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M26_noxref ( N_noxref_8_M26_noxref_d N_noxref_5_M26_noxref_g \
 N_VDD_M26_noxref_s noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M27_noxref ( N_VDD_M27_noxref_d N_noxref_5_M27_noxref_g \
 N_noxref_8_M26_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
M28_noxref ( N_VDD_M28_noxref_d N_noxref_6_M28_noxref_g \
 N_noxref_13_M28_noxref_s noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M29_noxref ( N_noxref_13_M29_noxref_d N_noxref_6_M29_noxref_g \
 N_VDD_M28_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M30_noxref ( N_Q_M30_noxref_d N_noxref_9_M30_noxref_g N_noxref_13_M29_noxref_d \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M31_noxref ( N_noxref_13_M31_noxref_d N_noxref_9_M31_noxref_g N_Q_M30_noxref_d \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 ps=2.56 nrd=0 nrs=0 m=1
M32_noxref ( N_VDD_M32_noxref_d N_Q_M32_noxref_g N_noxref_14_M32_noxref_s \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 ps=2.57 nrd=0 nrs=0 m=1
M33_noxref ( N_noxref_14_M33_noxref_d N_Q_M33_noxref_g N_VDD_M32_noxref_d \
 noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 ps=2.58 nrd=0 nrs=0 m=1
M34_noxref ( N_noxref_9_M34_noxref_d N_noxref_8_M34_noxref_g \
 N_noxref_14_M33_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M35_noxref ( N_noxref_14_M35_noxref_d N_noxref_8_M35_noxref_g \
 N_noxref_9_M34_noxref_d noxref_247 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/DLATCHN.pxi.spice"
// 
ends DLATCHN
// 
// 
